US04160094
8-Lithio-5,6,7,8-tetrahydroquinoline
The title compound is prepared using n-butyl lithium (9% w/v in hexane) and 5,6,7,8-tetrahydroquinoline by the general procedure of Example 7. The product may be converted to 5,6,7,8-tetrahydroquinoline-8-thiocarboxamide by the procedures described in Example 2 above, and U.S. Ser. No. 460,265.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5,6,7,8-tetrahydroquinoline | N1=CC=CC=2CCCCC12 | C9H11N
reactant | 5,6,7,8-tetrahydroquinoline-8-thiocarboxamide | N1=CC=CC=2CCCC(C12)C(N)=S | C10H12N2S
product | 8-Lithio-5,6,7,8-tetrahydroquinoline | [Li]C1CCCC=2C=CC=NC12 | InChI=1S/C9H10N.Li/c1-2-6-9-8(4-1)5-3-7-10-9;/h3,5-7H,1-2,4H2;
